US07271262B2
240B. (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(4′-dimethylamino-biphenyl-3-yl)-methanone
A solution of (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(4′-dimethylamino-biphenyl-3-yl)-methanone ((40 mg, 0.089 mmol) and NH4OH (2 mL) in 1,4-dioxane (2 mL) was heated to 50° C. in a sealed tube. After 12 h the reaction was concentrated under reduced pressure and purified by flash column chromatography (CH2Cl2/MeOH 95:5) to afford the title compound as a yellow solid (28 mg, 74%). MS: 426.0 (MH+); HPLC Rf: 7.38 min. (HPLC method 4).

reactant | (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(4′-dimethylamino-biphenyl-3-yl)-methanone | ClC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=CC2)C2=CC=C(C=C2)N(C)C)C2CCCC2 | C26H25ClN4O
reactant | NH4OH | 2 mL | [NH4+].[OH-]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(4′-dimethylamino-biphenyl-3-yl)-methanone | 28 mg, 74% | NC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=CC2)C2=CC=C(C=C2)N(C)C)C2CCCC2 | C26H27N5O
